US08431575B2
A mixture of 3-(4-benzyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester (28.08 mmol, 10.8 g) and hydrazine hydrate (15 mL) in acetic acid (45 mL) was stirred at 120° C. for 4 h. The reaction mixture was concentrated under reduced pressure and to the residue was added water (200 mL). This was extracted with DCM (3×200 mL), and the combined organic layer was dried and concentrated under reduced pressure. The resultant residue was purified by flash silica gel column chromatography eluting with 50% ethyl acetate in hexanes to afford 5-(4-benzyloxy-phenyl)-6-butyl-2H-pyridazin-3-one.

reactant | 3-(4-benzyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester | 28.08 mmol, 10.8 g | C(C)OC(C(C(C(CCCC)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)O)=O | C23H28O5
reactant | hydrazine hydrate | 15 mL | O.NN
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
product | 5-(4-benzyloxy-phenyl)-6-butyl-2H-pyridazin-3-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(NN=C1CCCC)=O | C21H22N2O2
